Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ Aortic Valve Replacement(23mm Porcine Valve), Three 
Vessel Coronary Artery Bypass Grafting(left internal mammary 
artery to left anterior descending with vein grafts to diagonal 
and PDA).

 
History of Present Illness:
This is a ___ year old female with a history of hypertension, 
hyperlipidemia, s/p AAA repair ___, colon CA s/p chemotherapy, 
pulmonary infarct s/p right wedge resection approximately ___ 
years ago, breast CA s/p left lumpectomy and radiation, 
perforated duodenal ulcer, arthritis, and aortic stenosis. Her 
aortic valve area has remained 0.8 cm2 however her mitral 
regurgitation has increased and she now has mild pulmonary 
hypertension on echocardiogram. She reports that over the last 
six months she has become symptomatic with mild dizziness, 
presyncope, and throat tightness which occurs with exertion. She 
reports throat tightness which occurs with exertion only and 
improves with rest. It is mild in nature. Her dizziness and 
presyncope occur independently of activity. She has also noted 
her breathing is more labored and with progression of dyspnea on 
exertion. She now becomes short of breath with carrying 
groceries from the car. She is unable to climb a flight of 
stairs without significant dyspnea. She was treated for left 
facial Cellulitis with a 10 day course of Augmentin which she 
completed last ___. She is now being referred to cardiac 
surgery for an aortic valve replacment and coronary artery 
bypass grafting.

 
Past Medical History:
Colon Cancer s/p chemotherapy 
History of Pulmonary infarct s/p right wedge resection  
GERD
Hypertension
Hyperlipidemia
Breast Cancer, s/p radiation
History of Perforated Duodenal Ulcer ___ or ___ 
Psoriasis 
s/p Endovascular AAA repair ___
s/p Left Breast Lumpectomy

 
Social History:
___
Family History:
No premature coronary artery disease
 
Physical Exam:
PREOP EXAM

Pulse:63   Resp:20  O2 sat:100/RA 
BP  Right:129/67
Height:5'9"     Weight:250 lbs

General: Obese female in no acute distress
Skin: Dry [x] intact [x] - well healed incisions
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur - harsh systolic murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema - trace
Varicosities: None [x]
Neuro: Grossly intact
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 1  Left: 1
___           Right: 1  Left: 1
Radial       Right: 1  Left: 1
Carotid Bruit: transmitted murmurs bilaterally

 
Pertinent Results:
___ 03:00AM BLOOD WBC-5.8 RBC-3.11* Hgb-9.8* Hct-28.5* 
MCV-92 MCH-31.6 MCHC-34.5 RDW-14.7 Plt ___
___ 01:17AM BLOOD WBC-8.0 RBC-3.00* Hgb-9.5* Hct-27.3* 
MCV-91 MCH-31.8 MCHC-34.9 RDW-14.9 Plt ___
___ 11:39AM BLOOD ___ PTT-29.2 ___
___ 04:00PM BLOOD ___ PTT-34.8 ___
___ 02:44PM BLOOD ___ PTT-34.5 ___
___ 11:39AM BLOOD Glucose-88 UreaN-25* Creat-1.2* Na-136 
K-4.2 Cl-98 HCO3-22 AnGap-20
___ 03:00AM BLOOD Glucose-96 UreaN-26* Creat-1.2* Na-137 
K-4.0 Cl-101 HCO3-27 AnGap-13

TEE ___
Conclusions  
Pre CPB:
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium or left atrial appendage. 
No atrial septal defect is seen by 2D or color Doppler. 
Overall left ventricular systolic function is normal (LVEF>55%). 

Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. There are three aortic 
valve leaflets. The aortic valve leaflets are severely 
thickened/deformed. There is severe aortic valve stenosis (valve 
area 0.8-1.0cm2). Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are severely thickened/deformed. Mild 
(1+) mitral regurgitation is seen. 
There is a small pericardial effusion. Dr. ___ was 
notified in person of the results.

Post CPB:
The patient is being A-paced on a phenylephrine infusion with a 
cardiac output of 4.7L/min.
There is a well seated bioprosthetic valve in the aortic 
position, with mean/peak gradients of ___.
There is mild-moderate MR.
___ biventricular systolic function is preserved.
There may be a small hematoma in the aortic root which was 
discussed with the surgeons, but otherwise the visible contours 
of the thoracic aorta are intact.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 12:09  
   

 
Brief Hospital Course:
Mrs. ___ was admitted and underwent aortic valve replacement 
and coronary artery bypass grafting surgery by Dr. ___. For 
surgical details, please see operative note. Following surgery, 
she was brought to the CVICU for invasive monitoring. Within 24 
hours, she awoke neurologically intact and was extubated without 
incident. Beta blocker was initiated and the patient was gently 
diuresed toward the preoperative weight.  She did develop Atrial 
Fibrillation and converted to NSR with amidoarone.  She 
vascillated between AFib and Sinus Rhythm and was started on 
coumadin.  The patient was transferred to the telemetry floor 
for further recovery.  Chest tubes and pacing wires were 
discontinued without complication.  The patient was evaluated by 
the physical therapy service for assistance with strength and 
mobility.  She developed diarrhea, C Difficile toxin was 
negative x 3. Flagyl was d/c'd.  Immodium was started and loose 
stools are resolving.

 By the time of discharge on POD #7 the patient was ambulating 
with assist, the wound was healing and pain was controlled with 
oral analgesics.  The patient was discharged to ___ at 
___ in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
LANSOPRAZOLE [PREVACID] - 30 mg Capsule, Delayed Release(E.C.) - 
1 (One) Capsule(s) by mouth ONCE A DAY
LOSARTAN-HYDROCHLOROTHIAZIDE - 100 mg-25 mg Tablet - 1 (One) 
Tablet(s) by mouth ONCE  A DAY
NIACIN-LOVASTATIN [ADVICOR] - 500 mg-20 mg Tablet, ER Multiphase 
24 hr - 1 (One) Tablet(s) by mouth ONCE A DAY
ASCORBIC ACID - ___ mg Tablet - 1 (One) Tablet(s) by mouth ONCE 
A DAY
B COMPLEX VITAMINS - Tablet - 1 (One) Tablet(s) by mouth ONCE A 
DAY
CHOLECALCIFEROL - 1,000 unit Tablet - 1 (One) Tablet(s) by mouth 
ONCE A DAY

 
Discharge Medications:
1. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. niacin 250 mg Capsule, Extended Release Sig: One (1) Capsule, 
Extended Release PO BID (2 times a day).  
3. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
6. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*65 Tablet(s)* Refills:*0*
7. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
8. loperamide 2 mg Capsule Sig: Two (2) Capsule PO QID (4 times 
a day) as needed for loose stool.  
9. warfarin 1 mg Tablet Sig: based on INR Tablet PO Once Daily 
at 4 ___: indication afib
INR goal 2.0-2.5.  
10. amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day: 
400mg daily for 7 days then decrease to 200mg daily ongoing.  
11. heparin, porcine (PF) 10 unit/mL Syringe Sig: picc line 
flush ML Intravenous PRN (as needed) as needed for line flush: 
PICC line care .  
12. psyllium     Packet Sig: One (1) Packet PO TID (3 times a 
day) as needed for diarrhea.  
13. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  
14. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis, Coronary Artery Disease - s/p AVR/CABG
Hypertension
Dyslipidemia
History of Endovascular Repair of AAA
Mitral Regurgitation
Breast Cancer, Prior Radiation and Lumpectomy
History of Pulmonary infarct s/p right wedge resection  

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Percocet
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
Edema 1+ 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___